US04764202
1.2 ml (0.0129 mol) of acetic anhydride and 0.6 ml (0.0143 mol) of 98% strength nitric acid are added in succession to 5 g (0.0113 mol) of 5-dichloroacetamido-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole in 10 ml of glacial acetic acid at room temperature. The mixture is stirred for 20 hours, after which it is evaporated down in vacuo, the residue is taken up in 50 ml of dichloromethane and the solution is washed in succession with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulphate and freed from the solvent in vacuo. 4.2 g (76.4% of theory) of 5-dichloroacetamido-4-nitro-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole of melting point 112° C.-120° C. are obtained.

reactant | acetic anhydride | 0.0129 mol, 1.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 5-dichloroacetamido-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole | 0.0113 mol, 5 g | ClC(C(=O)NC1=CC=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl)Cl | C12H5Cl5F3N3O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-dichloroacetamido-4-nitro-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole | 4.2 g, 76.4% | ClC(C(=O)NC1=C(C=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl)[N+](=O)[O-])Cl | C12H4Cl5F3N4O3
